US08133909B2
(5-Methyl-thiazol-2-yl)-(2-p-tolyl-ethyl)-amine
To a suspension of N-(5-methyl-thiazol-2-yl)-2-p-tolyl-acetamide (1.31 g, 5.33 mmol) in THF (11 mL) was added dropwise under a nitrogen atmosphere borane-tetrahydrofuran complex (1 M in THF, 11 mL, 11 mmol). The reaction mixture was stirred for 18 h at 80° C. To the solution was added very carefully a aqueous hydrochloric acid (1 M, 10 mL) and stirred for 30 min at 80° C. After cooling it was diluted with TBME (25 mL), water (20 mL) and basified by addition of Na2CO3. The aqueous layer was extracted with TBME (25 mL) and the organic layers were washed with brine (15 mL). The combined organic layers were dried over sodium sulfate. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate:methanol=90:10:0 to 40:50:10) afforded the title compound (630 mg, 51%) as a white solid. MS m/e: 233.0 [M+H]+.

reactant | N-(5-methyl-thiazol-2-yl)-2-p-tolyl-acetamide | 5.33 mmol, 1.31 g | CC1=CN=C(S1)NC(CC1=CC=C(C=C1)C)=O | C13H14N2OS
reactant | borane tetrahydrofuran | 11 mmol, 1 M, 11 mL | B.O1CCCC1
reactant | hydrochloric acid | 1 M, 10 mL | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | TBME | 25 mL | CC(C)(C)OC | C5H12O
solvent | water | 20 mL | O | H2O
product | (5-Methyl-thiazol-2-yl)-(2-p-tolyl-ethyl)-amine | 630 mg, 51% | CC1=CN=C(S1)NCCC1=CC=C(C=C1)C | C13H16N2S
